US07282588B2
Preparation of N′-(4-{4-[2-(4-{[ethyl(2-hydroxyethyl)amino]methyl}phenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea
Following the procedure described for Intermediate 101 using N′-(4-{4-[2-(4-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea and 2-(ethylamino)ethanol provided the title compound. ESMS [M+H]+: 538.4

reactant | N′-(4-{4-[2-(4-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | C(=O)C1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)C)C2=CC=C(C=C2)NC(N(C)C)=O)N1 | C27H24N6O2
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
product | N′-(4-{4-[2-(4-{[ethyl(2-hydroxyethyl)amino]methyl}phenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | C(C)N(CCO)CC1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)C)C2=CC=C(C=C2)NC(N(C)C)=O)N1 | C31H35N7O2
